US06251890B1
Step 4: Preparation of 7-nitro-2,3-dihydro-1H-Benz[de]isoquinoline-6-sulfonic Acid Amide
A 2M solution of ammonia in methanol (10 mL) is added to a solution of 7-nitro-2,3-dihydro-2-trifluoroacetyl-1H-Benz[de]isoquinoline-6-sulfonyl chloride (4 mmol) in 40 mL of methanol and the resulting mixture is stirred at room temperature for 24 hours. The mixture is then concentrated under vacuum and the residue is partitioned between ethyl acetate and water. The organic layer is dried over magnesium sulfate and concentrated to afford the title compound. The crude product can be purified by recrystallization or chromatography.

reactant | ammonia | N | H3N
reactant | 7-nitro-2,3-dihydro-2-trifluoroacetyl-1H-Benz[de]isoquinoline-6-sulfonyl chloride | 4 mmol | [N+](=O)([O-])C=1C=2C3=C(CN(CC3=CC1)C(C(F)(F)F)=O)C=CC2S(=O)(=O)Cl | C14H8ClF3N2O5S
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 40 mL | CO | CH4O
product | 7-nitro-2,3-dihydro-1H-Benz[de]isoquinoline-6-sulfonic Acid Amide | [N+](=O)([O-])C=1C=2C3=C(CNCC3=CC1)C=CC2S(=O)(=O)N | C12H11N3O4S
